US08207172B2
Preparation of 2-[6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl]ethanol
To 250 mL THF cooled to 0° C. was added 2-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine (7.70 g, 10.9 mmol). To the homogeneous mixture was then added aq HCl 2M, 6.5 mL), upon which the contents darken. The contents were stirred with warming to rt over a 4 h period, after which time the solvent was removed under reduced pressure. The crude residue was diluted with aq Na2CO3 (2M, 100 mL) to attain a pH=11 solution which was vigorously stirred, and the contents then filtered to a light brown solid which was dried under hi-vac. The collected product was triturated two times from hot ethanol to afford the final product (5.05 g, 89%) as a light tan solid. 1H-NMR (DMSO-d6) δ 2.90 (t, 2H), 3.36 (t, 2H), 3.72 (m, 2H), 4.06 (t, 2H), 4.90 (s, 1H), 5.24 (s, 2H), 7.14-7.34 (m, 4H), 7.41-7.54 (m, 2H), 7.78 (d, 1H), 7.95 (s, 1H), 8.35 (s, 1H), 8.40 (s, 1H); LCMS RT=3.39 min; [M+H]+=522.2.

reactant | 2-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 10.9 mmol, 7.70 g | [Si](C)(C)(C(C)(C)C)OCCN1N=C2CCC3=C(C2=C1)SC=1C3=C(N=CN1)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl | C32H35ClFN5O2SSi
reactant | HCl | 2M, 6.5 mL | Cl | ClH
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-[6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl]ethanol | 5.05 g, 89% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=C1C1=C(C3=CN(N=C3CC1)CCO)S2 | C26H21ClFN5O2S
